data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_677899_1,[C@:1]([C:4]([H:20])([H:21])[H:22])([N:5](/[C:6]([C:3]([H:17])([H:18])[H:19])=[N:9]/[C:2]([H:14])([H:15])[H:16])[O:8][H:10])([N:7]([H:12])[H:13])[H:11]>>[C@@:1]([C:4]([H:20])([H:21])[H:22])([N:7]([H:12])[H:13])([N:9]([C:2]([H:14])([H:15])[H:16])/[C:6]([C:3]([H:17])([H:18])[H:19])=[N:5]/[O:8][H:10])[H:11],48.60489499998664
MR_633758_1,[C:1](/[C:4]([C:3]([H:17])([H:18])[H:19])=[N:8]/[N:5]([H:10])[H:11])([N:6]([H:12])[H:13])([O:7][C:2]([H:14])([H:15])[H:16])[H:9]>>[C:1]1([N:6]([H:12])[H:13])([H:9])[C:4]([C:3]([H:17])([H:18])[H:19])([O:7][C:2]([H:14])([H:15])[H:16])[N:8]1[N:5]([H:10])[H:11],56.598617499993225
MR_2241_0,[C:1]([N:2]([O:5][C:3]([N:4]([H:8])[H:9])=[O:6])[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:2]([O:6][C:3]([N:4]([H:8])[H:9])=[O:5])[H:7])([H:10])([H:11])[H:12],51.19898000000035
MR_360457_0,[C@@:1]12([H:9])[C:2]([H:12])([H:13])[C:6]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C@:5]1([N:7]([H:10])[H:11])[O:8]2>>[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C:2]([H:12])([H:13])[C:6]([C:4]([H:17])([H:18])[H:19])=[C:5]([N:7]([H:10])[H:11])[O:8]1,55.08508749996224
MR_437426_0,[C:1]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:4]([N:3]([O:6][H:8])[H:10])[O:7][H:9])([H:11])([H:12])[H:16]>>[C:1]([C:5]([C:2]([H:13])([H:14])[H:15])([C@:4]1([O:7][H:9])[N:3]([H:10])[O:6]1)[H:8])([H:11])([H:12])[H:16],54.29506499999505
MR_370555_0,[C:1]([N:2]([H:8])[H:9])(/[C:4](=[C:3](\[O:6][H:7])[H:10])[H:11])=[C:5]([H:12])[H:13]>>[C:1]1([N:2]([H:8])[H:9])=[C:4]([H:11])[C@:3]([O:6][H:7])([H:10])[C:5]1([H:12])[H:13],48.21835499996382
MR_481656_1,[C:1](=[C:3]([C:4](=[N:7]/[H:13])\[H:14])/[O:9][C:2]([O:5][H:10])=[O:8])(\[O:6][H:11])[H:12]>>[C:1]([C:2]([O:5][H:10])=[O:8])([C:3](/[C:4](=[N:7]\[H:13])[H:14])=[O:9])([O:6][H:11])[H:12],57.69486000000768
MR_141744_2,[C:1]([C:2]([N:5]([C:3]([H:16])([H:17])[H:18])[C:7]([N:8]([H:12])[H:21])([H:9])[H:15])([H:13])[H:14])(=[C:4]([H:19])[H:20])[N:6]([H:10])[H:11]>>[C:1]([C:2]([N:5]([C:3]([H:16])([H:17])[H:18])/[C:7](=[N:8]/[H:12])[H:15])([H:13])[H:14])([C:4]([H:19])([H:20])[H:21])([N:6]([H:10])[H:11])[H:9],63.00727500000676
MR_540663_1,[C:1]([C:2](=[O:7])[H:14])([C:3]([H:16])([H:17])[H:18])([C:5]([C:4]([O:8][H:13])=[O:9])([O:10][H:12])[H:15])[O:6][H:11]>>[C:1]([C:2]([C:4]([O:8][H:13])=[O:9])([O:7][H:12])[H:14])([C:3]([H:16])([H:17])[H:18])([C:5](=[O:10])[H:15])[O:6][H:11],58.50872750002168
MR_145712_1,[C:1]1([H:13])([H:14])[C:4]([C:2]([H:15])([H:16])[H:17])([C:7]([H:10])([H:18])[H:19])[N:8]1/[C:3](=[N:5]/[H:9])[N:6]([H:11])[H:12]>>[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([N:8]=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([H:13])[H:14],28.868764999985643
MR_45735_0,[C:1]([C:2]([H:10])([H:11])[H:16])([C:3]([H:13])([H:14])[H:15])([C:4]([H:12])([H:17])[H:18])[O:6][C:5]([O:7][H:9])=[O:8]>>[C:1]([C:2]([H:10])([H:11])[H:16])([C:3]([H:13])([H:14])[H:15])([C:4]([H:12])([H:17])[H:18])[O:8][C:5](=[O:6])[O:7][H:9],47.196157500012106
MR_559496_0,[C:1](/[N:3]=[C:5](/[C:6]([C:2]([H:16])([H:17])[H:18])([C:4]([O:7][H:10])=[O:9])[H:12])[O:8][H:11])([H:13])([H:14])[H:15]>>[C:1]([N:3]([C:4]([O:7][H:10])=[O:9])/[C:5](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:12])[O:8][H:11])([H:13])([H:14])[H:15],58.19748750002276
MR_595144_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])(/[C:4](=[N:7]/[O:5][H:9])[H:10])[N:6]=[O:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])=[C:4]([N:7]([O:5][H:9])[N:6]=[O:8])[H:10],24.37963000001247
MR_617886_2,[C:1]([C@:2]1([N:4]([H:9])[H:10])[C:3](=[C:7]([H:16])[H:17])[C@:5]1([C:6](=[C:8]([H:18])[H:19])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[C:2]([N:4]([H:9])[H:10])=[C:5](/[C:3]([C:6](=[C:8]([H:18])[H:19])[H:12])=[C:7]([H:16])[H:17])[H:11])([H:13])([H:14])[H:15],67.76435250001683
MR_355654_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])(/[C:5](=[C:6](\[N:4]([H:9])[H:10])[H:12])[H:11])[O:7][H:8]>>[C@:1]1([C:3]([H:13])([H:17])[H:18])([O:7][H:8])[C@@:5]([C:2]([H:14])([H:15])[H:16])([H:11])[C@@:6]1([N:4]([H:9])[H:10])[H:12],67.1939549999945
MR_655948_1,[C:1]([C:3](=[C:6](/[N:5]([H:12])[H:13])[H:14])/[N:8]=[C:2](\[N:4]([H:10])[H:11])[O:7][H:9])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[N:8][C:2]([N:4]([H:10])[H:11])([O:7][H:9])[C:6]1([N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],44.69808000004136
MR_173571_1,[c:1]1([O:7][H:8])[c:2]([N:3]([H:9])[H:10])[c:5]([H:12])[c:4]([H:11])[o:6]1>>[C:1]([C:2]1([N:3]([H:9])[H:10])[C:4]([H:11])=[C:5]1[H:12])(=[O:6])[O:7][H:8],53.93927250000161
MR_11259_0,[C:1]([C:2]([H:6])([H:7])[H:8])(=[O:3])[O:4][H:5]>>[C:1](=[C:2]([H:7])[H:8])([O:3][H:6])[O:4][H:5],68.9710349999843
MR_58583_0,[C@@:1]1([C:3]([C:2]([H:9])([H:10])[H:11])=[O:6])([H:7])[C:4]([H:8])[N:5]1>>[C:1]1([H:7])[C:4]([H:8])[N:5]1[C:3]([C:2]([H:9])([H:10])[H:11])=[O:6],64.51327500002108
